Name:  ___                         Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: NEUROLOGY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___
 
Chief Complaint:
L sided weakness
 
Major Surgical or Invasive Procedure:
None
 
History of Present Illness:
Mr. ___ is a ___ R handed man primarily ___ 
speaking (moved to US ___ years ago with wife) who presents with 
5 days of lethargy, gait instability and mild L sided weakness. 

His daughter was at bedside and provided ___ interpretation 
for the encounter. 

Briefly, the patient states that he was feeling well last 
weekend and ___ morning. He drives ___ as a living. He left 
the house in the morning and did a few rides. In the afternoon, 
he got out of the car to go into the grocery store when he noted 
that he was feeling off balance and was leaning to the L , and 
having difficulty walking, particularly feeling slightly weak in 
his L leg. He was unsure what was occurring as it was quite 
subtle. The patient proceeded to grocery shop and go home. 

Throughout the rest of the week, the patient continued to feel 
tired, and "dizzy" which on further clarification means just off 
balance due to L sided weakness. On ___, his wife noted 
that he was having difficulty drinking from a glass using his 
left hand. While eating, he was dropping things from his spoon 
and needed his R hand to support the left. Of note, the patient 
just started taking aspirin on ___ when he was not feeling 
well, but prior to this was not taking it regularly. 
 
On neuro ROS, the pt denies headache, loss of vision, blurred 
vision, diplopia, dysarthria, dysphagia, lightheadedness, 
vertigo, tinnitus or hearing difficulty. Denies difficulties 
producing or comprehending speech.  Denies focal numbness, 
parasthesiae. No bowel or bladder incontinence or retention. 
 
On general review of systems, the pt denies recent fever or 
chills.  No night sweats or recent weight loss or gain. Denies 
cough, shortness of breath.  Denies chest pain or tightness, 
palpitations.  Denies nausea, vomiting, diarrhea, constipation 
or abdominal pain.  No recent change in bowel or bladder habits. 
 No dysuria.  Denies arthralgias or myalgias. Denies rash.
 

 
Past Medical History:
Hypertension
Hyperlipidemia
 
Social History:
Lives with his wife in ___. Has a daughter who was 
interpreting at bedside. Patient smokes ___ cigarettes per day. 
No ETOH use. 
 
- Modified Rankin Scale:
[X] 0: No symptoms
[] 1: No significant disability - able to carry out all usual 
activities despite some symptoms
[] 2: Slight disability: able to look after own affairs without 
assistance but unable to carry out all previous activities
[] 3: Moderate disability: requires some help but able to walk 
unassisted
[] 4: Moderately severe disability: unable to attend to own 
bodily needs without assistance and unable to walk unassisted
[] 5: Severe disability: requires constant nursing care and 
attention, bedridden, incontinent
[] 6: Dead

 
Family History:
Father with stroke at age ___, died from this. Mother still 
alive. Siblings healthy. 
 
Physical Exam:
========================
ADMISSION PHYSICAL EXAM:
========================
Vitals: T: 97.5, HR 70, BP 144/93, RR 14, 98% on RA 
General: Awake, cooperative, NAD.
HEENT: NC/AT, no scleral icterus noted, MMM, no lesions noted in
oropharynx
Neck: Supple, no carotid bruits appreciated. No nuchal rigidity
Pulmonary: Normal work of breathing
Cardiac: RRR, warm, well-perfused
Abdomen: soft, non-distended
Extremities: No ___ edema.
Skin: no rashes or lesions noted.
 
Neurologic:
-Mental Status: Alert, oriented x place, date, location. Able to 
relate history without difficulty. Attentive, able to name ___ 
backward without difficulty. Language is fluent with intact 
repetition and comprehension. Normal prosody. There were no 
paraphasic errors. Pt was able to name both high and low 
frequency objects.  Able to read without difficulty. Able to 
follow both midline and appendicular commands. There was no 
evidence of apraxia or neglect.

-Cranial Nerves:
II, III, IV, VI:  PERRL 3 to 2mm and brisk. EOMI without 
nystagmus. Normal saccades. VFF to confrontation. Visual acuity 
___ bilaterally. 
V: Facial sensation intact to light touch.
VII: Mild L NLFF and slower to activate on L 
VIII: Hearing intact to finger-rub bilaterally.
IX, X: Palate elevates symmetrically.
XI: ___ strength in trapezii bilaterally.
XII: Tongue protrudes in midline with good excursions. Strength 
full with tongue-in-cheek testing. *mild dysarthria 

-Motor: Normal bulk, tone throughout. No pronator drift 
bilaterally. Mild tremor in LUE. 
  Delt Bic Tri WrE  FE  IP Quad Ham  TA ___  ___ 
L  4+   ___   ___   5   5    5       5   
R  5    ___   5    ___   5    5       5   

-Sensory: No deficits to light touch, pinprick, cold sensation, 
vibratory sense, proprioception throughout. No extinction to 
DSS. Romberg absent. 

-DTRs:
  Bi Tri ___ Pat Ach
L  3  3    3    3   1
R  2  2    2    2   1
Plantar response was flexor on R, equivocal on L 

-Coordination: Mild intention tremor. Normal finger-tap 
bilaterally. No dysmetria on FNF or HKS bilaterally.

-Gait: deferred 

========================
DISCHARGE PHYSICAL EXAM:
========================
General: Awake, cooperative, NAD
HEENT: No scleral icterus, MMM
CV: Warm and well-perfused
Pulmonary: Breathing comfortably in room air

Neurologic: 
-Mental Status: Alert, speaking in ___ with Dr. ___.

-Cranial Nerves: Mild left NLFF. Mild dysarthria.

-Motor: Normal bulk throughout. Cupping and drift on the left. 
   Delt Bic Tri FE IP Quad Ham TA
 L  5    ___   5 
 R  5    ___  ___   5
 
Pertinent Results:
___ 11:47PM BLOOD %HbA1c-5.5 eAG-111
___ 09:47PM BLOOD LDLmeas-152*
___ 09:47PM BLOOD TSH-4.1

========================
CTA head and neck, ___:
========================
1. Known probable late acute versus early subacute infarct 
within the right corona radiata, better characterized on 
subsequent MRI examination. 
2. No evidence for acute intracranial hemorrhage. 
3. Abrupt cutoff of the proximal right M1 segment with 
subsequent 
recanalization in the distal right M1 segment. 
4. Extensive bilateral maxillary sinus disease and numerous 
periapical 
lucencies involving the maxillary and mandibular teeth. 
5. Additional findings as above. 

================
MRI brain, ___:
================
1. Moderate size region of acute infarction predominantly within 
the right 
frontal radiata in lenticulostriate territory. 
2. Few additional punctate foci of acute infarct involve the 
white matter of the right parietal lobe, medial and posterior 
right temporal lobe. 
3. Mild white matter small vessel disease. 

===================
TTE, ___ and ___:
===================
Adequate image quality. No structural cardiac source of embolism 
(e.g. atrial septal defect, intracardiac thrombus, or 
vegetation) seen. Mild symmetric left ventricular hypertrophy 
with normal cavity size, and regional/global systolic function. 
Mild aortic regurgitation.

Negative bubble study

 
Brief Hospital Course:
Mr. ___ is a ___ primarily ___ man 
with history of smoking, HTN, and HLD who presented with 5 days 
of left sided weakness and gait instability on ___,  with 
imaging consistent with a right corona radiata stroke. 

#Ischemic stroke:
CTA head and neck showed absence of flow in the proximal right 
M1 segment of the MCA with subsequent recanalization. MRI 
demonstrated a right corona radiata infarct. His neurologic exam 
was notable for mild left extremity weakness and left lower 
facial weakness in an upper motor neuron pattern. 

Stroke work-up included echocardiogram (without bubble study) 
which showed was normal without evidence of a PFO, lipid panel 
(LDL 152), and HgbA1c (5.2%). 

For treatment, he was started on dual anti-platelet therapy with 
aspirin 81 mg and Plavix 75 mg for a planned 3-month duration. 
His statin therapy was intensified to atorvastatin 80 mg. The 
goals of Mr. ___ treatment also includes intensive control of 
his vascular risk factors through lifestyle counseling (quit 
smoking, healthy diet, regular exercise). We recommend that he 
continue to work on lifestyle changes after discharge. 

He was evaluated by the physical therapy and occupational 
therapy, who recommended acute rehab.

#HTN: We initially held Mr. ___ home Amlodipine to allow for 
blood pressure auto-regulation. Given the narrowing of the MCA, 
goal SBP was 110-140. He was started on half of his home 
amlodipine dose (5 mg daily).

TRANSITIONAL ISSUES:
[]Continue to monitor BP. Goal SBP 110-140.

========================================================
AHA/ASA Core Measures for Ischemic Stroke and Transient Ischemic 
Attack
========================================================
1. Dysphagia screening before any PO intake? (X) Yes, confirmed 
done 
2. DVT Prophylaxis administered? (X) Yes - boots, SC heparin
3. Antithrombotic therapy administered by end of hospital day 2? 
(X) Yes - aspirin
4. LDL documented? (X) Yes (LDL = 152) 
5. Intensive statin therapy administered? (X) Yes - atorvastatin 
80 
6. Smoking cessation counseling given?(X) Yes 
7. Stroke education (personal modifiable risk factors, how to 
activate EMS for stroke, stroke warning signs and symptoms, 
prescribed medications, need for follow up) given (verbally or 
written)? (X) Yes 
8. Assessment for rehabilitation or rehab services considered? 
(X) Yes 
9. Discharged on statin therapy? (X) Yes 
10. Discharged on antithrombotic therapy? (X) Yes [Type: (X) 
Antiplatelet]
11. Discharged on oral anticoagulation for patients with atrial 
fibrillation/flutter?(X) N/A  
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Simvastatin 40 mg PO DAILY 
2. amLODIPine 10 mg PO DAILY 

 
Discharge Medications:
1.  Aspirin 81 mg PO DAILY 
RX *aspirin 81 mg 1 tablet(s) by mouth daily Disp #*30 Tablet 
Refills:*5 
2.  Atorvastatin 80 mg PO QPM 
RX *atorvastatin 80 mg 1 tablet(s) by mouth daily Disp #*30 
Tablet Refills:*5 
3.  Clopidogrel 75 mg PO DAILY 
Take for 3 months in addition to aspirin, then stop and take 
only aspirin. 
RX *clopidogrel 75 mg 1 tablet(s) by mouth daily Disp #*30 
Tablet Refills:*2 
4.  amLODIPine 5 mg PO DAILY  

 
Discharge Disposition:
Extended Care
 
Facility:
___
 
Discharge Diagnosis:
acute ischemic stroke
 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr. ___,
  
You were hospitalized due to symptoms of left-sided weakness 
resulting from an ACUTE ISCHEMIC STROKE, a condition where a 
blood vessel providing oxygen and nutrients to the brain is 
blocked by a clot. The brain is the part of your body that 
controls and directs all the other parts of your body, so damage 
to the brain from being deprived of its blood supply can result 
in a variety of symptoms.  

Stroke can have many different causes, so we assessed you for 
medical conditions that might raise your risk of having stroke. 
In order to prevent future strokes, we plan to modify those risk 
factors. Your risk factors are: hypertension, hyperlipidemia, 
and smoking. 

In order to reduce your risk of future stroke, you should make 
important changes to your lifestyle. This includes stopping 
smoking, eating a healthy diet, and exercising on a daily basis. 


We are changing your medications as follows:  
- Increasing atorvastatin (medication for high cholesterol) to 
80 mg daily
- Started on two blood thinner medications: Plavix 75 mg daily 
and aspirin 81 mg daily
- Decreased amlodipine to 5 mg daily. You should continue to 
follow up with primary care doctor for management of your high 
blood pressure. 

Please take your other medications as prescribed.  

Please follow up with Neurology and your primary care physician 
as listed below.  

If you experience any of the symptoms below, please seek 
emergency medical attention by calling Emergency Medical 
Services (dialing 911). In particular, since stroke can recur, 
please pay attention to the sudden onset and persistence of 
these symptoms:  
 - Sudden partial or complete loss of vision  
 - Sudden loss of the ability to speak words from your mouth  
 - Sudden loss of the ability to understand others speaking to 
you  
 - Sudden weakness of one side of the body  
 - Sudden drooping of one side of the face  
 - Sudden loss of sensation of one side of the body  

Sincerely,  
Your ___ Neurology Team  

 
Followup Instructions:
___